US09290454B2
To a stirred mixture of adipic acid monomethyl ester (9.27 g, 57.9 mmol, 1.50 equiv.) in THF (50 mL) was added N,N′-carbonyldiimidazole (9.39 g, 57.9 mmol, 1.50 equiv.) and the mixture was stirred at room temperature. After stirring for 30 min, the reaction mixture was cooled to 0° C. followed by dropwise addition of 4-bromo-2-(carboxymethyl)benzoic acid (10.0 g, 38.6 mmol) in THF (25 mL). The reaction was stirred gradually from 0° C. to room temperature for 48 h. Upon completion of the reaction, 0.5 N HCl (25 mL) solution was added and extracted with EtOAc (2×25 mL). The organic layer was washed with aqueous sat. NaHCO3, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 0-15% EtOAc/hexanes to give 1.5 g of methyl 5-(6-bromo-1-oxo-1H-isochromen-3-yl)pentanoate as a white solid.

reactant | adipic acid monomethyl ester | 57.9 mmol, 9.27 g, 1.50 equiv. | COC(CCCCC(=O)O)=O | C7H12O4
reactant | 4-bromo-2-(carboxymethyl)benzoic acid | 38.6 mmol, 10.0 g | BrC1=CC(=C(C(=O)O)C=C1)CC(=O)O | C9H7BrO4
reactant | HCl | 0.5 N, 25 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | methyl 5-(6-bromo-1-oxo-1H-isochromen-3-yl)pentanoate | 1.5 g | BrC=1C=C2C=C(OC(C2=CC1)=O)CCCCC(=O)OC | C15H15BrO4
